### PR TITLE
[Merged by Bors] - feat: construct Haar measure in locally compact non-Hausdorff groups

### PR DESCRIPTION
**Pull request by sgouezel**
The construction we have is given in T2 spaces, but it works in non-Hausdorff spaces modulo a few modifications. 

For this, we introduce an ad hoc class `T2OrLocallyCompactRegularSpace`, which is just enough to unify the arguments, as a replacement for the class `ClosableCompactSubsetOpenSpace` (which is not strong enough). In the file `Separation.lean`, we move some material that was only available on T2 spaces to this new class.

The construction is needed for a forthcoming improvement of uniqueness results for Haar measures, based on https://mathoverflow.net/questions/456670/uniqueness-of-left-invariant-borel-probability-measure-on-compact-groups. 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Measure/Content.lean [hunk 1]
```diff
@@ -385,19 +403,21 @@ theorem measure_apply {s : Set G} (hs : MeasurableSet s) : μ.measure s = μ.out
   toMeasure_apply _ _ hs
 #align measure_theory.content.measure_apply MeasureTheory.Content.measure_apply
 
+instance outerRegular : μ.measure.OuterRegular := by
+  refine' ⟨fun A hA r (hr : _ < _) => _⟩
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Measure/Content.lean:407]: Please use `refine` instead of `refine'` (I know this is not new code from this PR, but since you are moving it around, let's improve it at the same time).

File: Mathlib/MeasureTheory/Measure/Haar/Unique.lean [hunk 2]
```diff
@@ -301,105 +356,76 @@ lemma measure_isMulLeftInvariant_eq_smul_of_ne_top
...
-    mul_one, ENNReal.coe_eq_one] at this
-  simp [hc, this]
+    [IsMulLeftInvariant μ] [IsMulLeftInvariant μ'] :
+    haarScalarFactor μ' μ = 1 := by
+  have : μ' univ = (haarScalarFactor μ' μ : ℝ≥0∞) * μ univ :=
+    measure_isMulLeftInvariant_eq_smul_of_ne_top _ _ (by simp) (by simp)
+  simpa [eq_comm] using this
 
 /-- An invariant σ-finite measure is absolutely continuous with respect to a Haar measure in a
 second countable grop. -/
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Measure/Haar/Unique.lean:420]:
```suggestion
second countable group. -/
```

File: Mathlib/Topology/Separation.lean [hunk 3]
```diff
@@ -1786,11 +1708,32 @@ instance (priority := 150) [RegularSpace X] : ClosableCompactSubsetOpenSpace X :
       exact ⟨F, nhdsWithin_le_nhds F_mem, F, Subset.rfl, F_closed, Fu⟩
   exact (closure_minimal sF F_closed).trans Fu
 
-/-- In a (possibly non-Hausdorff) locally compact space with the `ClosableCompactSubsetOpenSpace`
-  property (for instance regular spaces), for every containment `K ⊆ U` of a compact set `K` in an
-  open set `U`, there is a compact closed neighborhood `L` such that `K ⊆ L ⊆ U`: equivalently,
-  there is a compact closed set `L` such that `K ⊆ interior L` and `L ⊆ U`. -/
-theorem exists_compact_closed_between [LocallyCompactSpace X] [ClosableCompactSubsetOpenSpace X]
+theorem isCompact_isCompact_isClosed_separated [hX : T2OrLocallyCompactRegularSpace X]
```
Comment (RemyDegenne) [inline Mathlib/Topology/Separation.lean:1711]: Perhaps this is a better name:
```suggestion
theorem separatedNhds_of_isCompact_isCompact_isClosed [hX : T2OrLocallyCompactRegularSpace X]
```

File: Mathlib/Topology/Separation.lean [hunk 4]
```diff
@@ -1805,23 +1748,109 @@ theorem exists_compact_closed_between [LocallyCompactSpace X] [ClosableCompactSu
...
+theorem exists_open_with_compact_closure
+    [WeaklyLocallyCompactSpace X] [T2OrLocallyCompactRegularSpace X] (x : X) :
+    ∃ U : Set X, IsOpen U ∧ x ∈ U ∧ IsCompact (closure U) := by
+  simpa only [singleton_subset_iff]
+    using exists_open_superset_and_isCompact_closure isCompact_singleton
+#align exists_open_with_compact_closure exists_open_with_compact_closure
+
+-- see Note [lower instance priority]
+/-- A weakly locally compact Hausdorff space is locally compact. -/
+instance WeaklyLocallyCompactSpace.locallyCompactSpace
```
Comment (RemyDegenne) [inline Mathlib/Topology/Separation.lean:1792]: There is `-- see Note [lower instance priority]` here, but no priority is set for the instance?

**Review by RemyDegenne — APPROVED** [review]
Thanks!
bors d+
